US04466980
726 mg of 4(RS)-hydroxy-2-(5-methoxycarbonyl-5-methylpentylthio)-2-cyclopentenone and 596 mg (3.96 mmoles) of t-butyldimethylsilyl chloride were dissolved in 10 ml of hexamethylphosphoric triamide, and the reaction was performed at 0° C. for 20 hours. After the reaction, the reaction mixture was extracted with ethyl acetate. The extract was dried and concentrated to give 2.09 g of a crude product. The crude product was chromatographed on a silica gel column using hexane/ethyl acetate (4/1) as an eluent to give 594 mg (1.54 mmoles; yield 58.3%) of 4(RS)-t-butyldimethylsilyloxy-2-(5-methoxycarbonyl-5-methyl-pentylthio)-2-cyclopentenone.

reactant | 4(RS)-hydroxy-2-(5-methoxycarbonyl-5-methylpentylthio)-2-cyclopentenone | 726 mg | OC1C=C(C(C1)=O)SCCCCC(C)C(=O)OC | C13H20O4S
reactant | t-butyldimethylsilyl chloride | 3.96 mmoles, 596 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4(RS)-t-butyldimethylsilyloxy-2-(5-methoxycarbonyl-5-methyl-pentylthio)-2-cyclopentenone | 1.54 mmoles, 594 mg, yield 58.3% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)SCCCCC(C)C(=O)OC | C19H34O4SSi
